US06294152B1
1-Ethyl-3-hydroxy-2-methyl-4-pyridinone (III).
A reaction analogous to that used for the synthesis of 3-hydroxy-1,2-dimethyl-4-pyridinone was employed, starting with 70% ethylamine (4.6 g). No precipitate was observed after concentration. Recrystallization from ethanol and diethyl ether resulted in a white powder (4.2 g). Proton NMR (D20): 7.85 (d, 1H), 6.88 (d, 1H), 4.12 (q, 2H), 2.36 (s, 3H), 1.24 (t, 3H).

reactant | 3-hydroxy-1,2-dimethyl-4-pyridinone | OC1=C(N(C=CC1=O)C)C | C7H9NO2
reactant | ethylamine | 4.6 g | C(C)N | C2H7N
product | 1-Ethyl-3-hydroxy-2-methyl-4-pyridinone | 4.2 g | C(C)N1C(=C(C(C=C1)=O)O)C | C8H11NO2
